US08212032B2
Step 2: [4-(aminomethyl)-3-chlorophenyl]dimethylamine
To a solution of 2-chloro-4-(dimethylamino)benzonitrile (0.76 g, 4.21 mmol) in THF (5 mL) was added 1M LiAlH4/I2 in THF (8.41 ml, 8.41 mmol, as prepared in Step 2 of Intermediate 3). The mixture was stirred for 10 min, at which time LCMS indicated the formation of the desired product. Water (15 mL) was added to the mixture, which was acidified to pH=2 with 6N HCl. The aqueous layer was separated and washed with Et2O (2×25 mL). The aqueous layer was then basified with 6N NaOH, and extracted with Et2O (3×30 mL). The organics were dried over Na2SO4. The ether layer was evacuated to ⅓ volume at which time 8 mL of 1M HCl in ether solution was added. After stirring for 10 minutes, solids precipitated from solution. The solids were filtered, washed with ether and dried to afford the title compound (1.0 g, 92%) as a light yellow solid. MS (ES+): m/e 185.0 [M+H]+.

reactant | 2-chloro-4-(dimethylamino)benzonitrile | 4.21 mmol, 0.76 g | ClC1=C(C#N)C=CC(=C1)N(C)C | C9H9ClN2
reactant | LiAlH4 I2 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3].II
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 8.41 mmol, 8.41 ml | C1CCOC1 | C4H8O
product | [4-(aminomethyl)-3-chlorophenyl]dimethylamine | NCC1=C(C=C(C=C1)N(C)C)Cl | C9H13ClN2
